US07723356B2
Tii) (R)-Cyclopentyl-hydroxy-phenyl-acetic acid
This compound is prepared analogously to (R)-cyclohexyl-hydroxy-phenyl-acetic acid (Intermediate Siv) by replacing (2R,5S)-2-tert-butyl-5-(1-hydroxy-cyclohexyl)-5-phenyl-[1,3]dioxolan-4-one (step Siii) with (2R,5S)-2-tert-butyl-5-(1-hydroxy-cyclopentyl)-5-phenyl-[1,3]dioxolan-4-one.

reactant | (R)-cyclohexyl-hydroxy-phenyl-acetic acid | C1(CCCCC1)[C@](C(=O)O)(C1=CC=CC=C1)O | C14H18O3
reactant | (2R,5S)-2-tert-butyl-5-(1-hydroxy-cyclopentyl)-5-phenyl-[1,3]dioxolan-4-one | C(C)(C)(C)[C@@H]1O[C@@](C(O1)=O)(C1=CC=CC=C1)C1(CCCC1)O | C18H24O4
product | (R)-Cyclopentyl-hydroxy-phenyl-acetic acid | C1(CCCC1)[C@](C(=O)O)(C1=CC=CC=C1)O | C13H16O3
